US08791146B2
2-({[2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-6-(3-hydroxypropoxy)-4-phenylpyridine-3,5-dicarbonitrile
68 μl (0.939 mmol) of 1,3-propanediol are initially charged in 2 ml of DMF, 38 mg (0.344 mmol) of potassium tert-butoxide are added and the mixture is stirred for 15 minutes, after which 150 mg (0.313 mmol) of 2-chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-phenylpyridine-3,5-dicarbonitrile, dissolved in 2 ml of DMF, are added. The reaction mixture is stirred at room temperature for 1 hour and then purified by preparative HPLC (acetonitrile/water: 10:90→95:5, with 0.1% TFA added). This gives 98 mg (59% of theory) of the target compound.

reactant | 1,3-propanediol | 0.939 mmol, 68 μl | C(CCO)O | C3H8O2
reactant | potassium tert-butoxide | 0.344 mmol, 38 mg | CC(C)([O-])C.[K+]
reactant | 2-chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-phenylpyridine-3,5-dicarbonitrile | 0.313 mmol, 150 mg | ClC1=NC(=C(C(=C1C#N)C1=CC=CC=C1)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C23H12Cl2N4S2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-({[2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-6-(3-hydroxypropoxy)-4-phenylpyridine-3,5-dicarbonitrile | ClC1=CC=C(C=C1)C=1SC=C(N1)CSC1=NC(=C(C(=C1C#N)C1=CC=CC=C1)C#N)OCCCO | C26H19ClN4O2S2
